US05571821
N-(4-Ethyl-3-trifluoromethyl-5-isoxazolyl)-1-naphthalenesulfonamide was prepared, as described in Example 90, from 5-amino-4-ethyl-3-trifluoromethylisoxazole and 1-naphthalenesulfonyl chloride in 70% yield. Purification was achieved by recrystallization from methanol/water to give an off white solid, m.p. 135°-137° C.

reactant | 5-amino-4-ethyl-3-trifluoromethylisoxazole | NC1=C(C(=NO1)C(F)(F)F)CC | C6H7F3N2O
reactant | 1-naphthalenesulfonyl chloride | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N-(4-Ethyl-3-trifluoromethyl-5-isoxazolyl)-1-naphthalenesulfonamide | 70% yield | C(C)C=1C(=NOC1NS(=O)(=O)C1=CC=CC2=CC=CC=C12)C(F)(F)F | C16H13F3N2O3S
